US06756378B2
To a stirred solution of methyl (S)-4-[2-(trifluoroacetamido)-1-propoxy]benzoate (695 mg, 2.28 mmol) and K2CO3 (630 mg, 4.56 mmol) in DMF (10 ml) was added MeI (210 ml, 3.37 mmol) and the reaction mixture was stirred at room temperature for 2 days. The mixture was diluted with H2O and extracted with EtOAc. The extract was washed with brine, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silica-gel with EtOAc—CHCl3 (1:19, v/v) as eluent to give methyl (S)-4-[2-[(N-methyl)trifluoroacetamido]-1-propoxy]benzoate (720 mg, 99%) as a white solid. mp 73-75° C.; 1H-NMR (CDCl3) 1.36-1.39 (m, 3 H), 2.96 and 3.10 (each s, total 3 H), 3.89 (s, 3 H), 3.99-4.14 (m, 2 H), 4.84-4.92 (m, 1 H), 6.88-6.92 (m, 2 H), 7.98-8.00 (m, 2 H); MS (FAB) m/z 320 (M++1); Anal. Calcd. for C14H16F3NOf: C, 52.67; H 5.05; F, 17.85; N, 4.39. Found: C, 52.76; Et 5.09; F, 17.53; N, 4.32.

reactant | methyl (S)-4-[2-(trifluoroacetamido)-1-propoxy]benzoate | 2.28 mmol, 695 mg | FC(C(=O)N[C@H](COC1=CC=C(C(=O)OC)C=C1)C)(F)F | C13H14F3NO4
reactant | K2CO3 | 4.56 mmol, 630 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 3.37 mmol, 210 ml | CI | CH3I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | methyl (S)-4-[2-[(N-methyl)trifluoroacetamido]-1-propoxy]benzoate | 720 mg, 99% | CN(C(C(F)(F)F)=O)[C@H](COC1=CC=C(C(=O)OC)C=C1)C | C14H16F3NO4
